* geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-anise multiequal.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-anise version 2015.08.08                        *
*********************************************************
*============== Begin SPICE netlist of main design ============
V1 1 0 DC 1V
R1 0 1 20  
.OPTIONS abotol=1e-11
.end
